Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal pain, nausea, vomiting and fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE
.
___
Time: ___
_
________________________________________________________________

PCP: Dr.  ___

Nausea, emesis and diarrhea

_
________________________________________________________________
HPI: 
___ otherwise healthy presents for evaluation of 2 days of 
frequent episodes of nonbloody emesis and nonbloody diarrhea and 
subjective fever. He was in his gsogh until two days prior to 
presentation when he ate pizza at 4pm. Six hours later he 
developed n/v/d. He has had multiple episodes since with his 
last episode of diarrhea in the ED 1.5 hours ago. Its 
green/yellow liquid stool without blood. He has had sweats, 
chills and rigors. No sick contacts. No foreign travel. He had 
these sx once years ago and has been fine since then. The last 
time he had similar sx it was not as severe as this. He has pain 
when his abdomen is palpated but otherwise none. No recent abx. 
Other people ate the pizza but he was the only one who got sick. 
No chest pain, cough, sore throat, dysuria. No neck stiffness, 
no photophobia. + pounding headache without changes in visual 
sx. He has two dogs. A knife fell on his abdomen and he had 
surgery for this ___ years ago. 
 

In ER: (Triage Vitals: 0 |98.8 |117 |136/73 |18 |98% RA ) 
Meds Given: 4l crystalloid, Zofran and toradol
 Radiology Studies: RUQ US
ERCP notified via the ED dashboard.
.
ED assessment: 
admit for fever, transaminitis, n/v difficulty with po; pt does 
not feel safe for d/c as he does not feel like he will be able 
to arrange follow up with PCP in ___ timely manner
++++++++++++++++++++++
REVIEW OF SYSTEMS:
A ten point ROS is otherwise negative except as noted above. 
 

 
Past Medical History:
Abdominal surgery ___ years 
No htn, no dm
 
Social History:
___
Family History:
His father died at age ___ from lung cancer. 
 
Physical Exam:
Vitals:  100.9 PO 133 / 72 100   94 
CONS: Ill and fatigued but non-toxic appearing male. He is very 
pleasant.   
HEENT: injected sclerae b/l   
CV: s1s2 rr no m/r/g  
RESP: b/l ae no w/c/r  
GI: +bs, soft, ND, no guarding or rebound, + RUQ tenderness. 3 
2cm well healed scars present on abdomen 
MSK:no c/c/e 2+pulses  
SKIN: no rash  
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative  

DISCHARGE EXAM:
VS:  T 98.8 BP 122 / 74 HR 89 RR 18 O2 sat 95 RA   
Gen: NAD, resting
Eyes: EOMI, no scleral icterus
HENT: NCAT, trachea midline
CV: RRR, S1-S2, no m/r/r/g, no edema, 2+ ___ BLE
Lungs: CTA B, no w/r/r/c
GI: +BS, soft, NTTP, ND, no RUQ tenderness for me on exam
GU: No foley
MSK: ___ strength bilaterally, intact ROM
Neuro: Moving all extremities, no focal deficits, A+Ox3
Skin: Left great toe inflammation, warmth, mild pain with TTP, 
no fluctuance
Psych: Congruent affect, good judgment

 
Pertinent Results:
___ 10:45PM URINE  HOURS-RANDOM
___ 10:45PM URINE  UHOLD-HOLD
___ 10:45PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 10:45PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 10:45PM URINE  RBC-10* WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 10:45PM URINE  HYALINE-3*
___ 10:45PM URINE  AMORPH-RARE
___ 10:45PM URINE  MUCOUS-RARE
___ 10:40PM   LACTATE-1.4
___ 10:35PM   GLUCOSE-114* UREA N-22* CREAT-1.2 SODIUM-134 
POTASSIUM-3.8 CHLORIDE-97 TOTAL CO2-24 ANION GAP-17
___ 10:35PM   estGFR-Using this
___ 10:35PM   ALT(SGPT)-172* AST(SGOT)-139* ALK PHOS-68 TOT 
BILI-1.0
___ 10:35PM   LIPASE-28
___ 10:35PM   ALBUMIN-4.6
___ 10:35PM   WBC-8.7 RBC-5.44 HGB-16.9 HCT-49.7 MCV-91 
MCH-31.1 MCHC-34.0 RDW-11.9 RDWSD-39.6
___ 10:35PM   NEUTS-89.3* LYMPHS-7.1* MONOS-3.2* EOS-0.0* 
BASOS-0.1 IM ___ AbsNeut-7.74* AbsLymp-0.62* AbsMono-0.28 
AbsEos-0.00* AbsBaso-0.01
___ 10:35PM   ___ PTT-28.0 ___
___ 10:35PM   PLT COUNT-150
++++++++++++++++++++++
ADMISSION RUQ US
IMPRESSION:  
1. Cholelithiasis without evidence of cholecystitis. No intra or 

extrahepatic duct dilation. 
2. Echogenic liver consistent with steatosis. Other forms of 
liver disease 
and more advanced liver disease including steatohepatitis or 
significant 
hepatic fibrosis/cirrhosis cannot be excluded on this study. 

CT a/p ___
1. Cholelithiasis without findings of acute cholecystitis. 
2. No other CT evidence to correlate with patient's clinical 
symptoms. 

DISCHARGE LABS
___ 07:35AM BLOOD WBC-4.8 RBC-4.45* Hgb-13.7 Hct-40.1 
MCV-90 MCH-30.8 MCHC-34.2 RDW-11.6 RDWSD-37.9 Plt ___
___ 07:35AM BLOOD Glucose-92 UreaN-12 Creat-0.9 Na-138 
K-3.5 Cl-103 HCO3-24 AnGap-15
___ 07:35AM BLOOD ALT-216* AST-75* AlkPhos-49 TotBili-0.7
___ 07:35AM BLOOD Calcium-8.2* Phos-2.2* Mg-2.0
___ 03:10PM BLOOD HBsAg-Negative HBsAb-Positive HAV 
Ab-Positive IgM HBc-Negative IgM HAV-Negative
 
Brief Hospital Course:
 Mr. ___ is a ___ yo M with no significant PMH presented to
___ ___ with fever, nausea, vomiting and diarrhea
with elevated transaminases. 

# Sepsis - Symptoms started in last ___ days. No sick contacts. 
No travel, No alcohol use. No hematochezia or melena. No tick 
bites, flu like symptoms or other findings. No IVDA. Started on 
cipro/flagyl to cover for intrabdominal source with elevated 
AST/ALT. Originally to 300s/200s respectively but trended down 
on second day of admission. CT a/p without GI source as well as 
RUQ u/s. Plt mildly low at 115 with INR 1.4. Pt was able to 
tolerate food with minimal diarrhea, afebrile, and ambulating at 
time of discharge. Abx d'c'd after 48 hours. Cdiff/noravirus 
negative. 
- f/u in clinic with PCP 1 week for labs (check INR, CBC 
especially platelets). 
- will f/u on final cultures

# N/V/Diarrhea - 
# RUQ Pain -  Elevated liver enzymes - No WBC. INR 1.3. ALT 172,
AST 139. Tbili/ALKP WNL pending am labs. stool studies pending.
?viral gastroenteritis but with LFT elevation will cover for
ascending cholangitis. RUQ u/s neg for cholecystitis. Lipase 28. 
HAV/HBV serology negative (vaccinated).

# Thrombocytopenia - New on most recent labs this afternoon. No
confusion, no asterixis. Plt 150-->130-->115 in the setting of 
INR 1.3
and elevated AST/ALT. Workup above for viral/liver pathology. No
anemia. Lab check in 1 week

# ?Acute Gout - during admission developed acute Left toe pain 
on exam that was red, hot and inflamed. Pt does not have h/o 
gout but exam diagnostic. Avoiding prednisone with? infection. 
Colchicine can cause diarrhea so will hold unless worsening
- script given for colchicine if toe pain worsens. 

# Functional status:  Ambulatory
# Code status: Full  
# Contact: ___ Nurse daughter ___
# Dispo: home without services

Discharge took > 30 minutes with arranging outpatient f/u and 
discussing with family.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Colchicine 0.6 mg PO BID 
Please start this medication if your big toe continues to be 
painful. Twice daily for 7 days.  
RX *colchicine 0.6 mg 1 tablet(s) by mouth twice a day Disp #*14 
Tablet Refills:*0 
2.  Ondansetron ODT 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth q8hr Disp #*30 Tablet 
Refills:*0 
3.Outpatient Lab Work
LFT, CBC, BMP
___, MD
___
ICD 9: 558.9

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Sepsis ___ GI source
2. N/V/Diarrhea
3. Elevated Transaminases

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you during your 
hospitalization. You presented with nausea, vomiting and 
diarrhea concerning for infection due to recurrent fevers. You 
had multiple imaging that did not show infection and were placed 
an antibiotics for treatment. 
 
Followup Instructions:
___